US07238771B2
Preparation of 1,4-dihexylbenzene:
A 2 L round-bottomed flask is charged with 1,4-dichlorobenzene (118 g, 0.80 mol), [1,3 -bis(diphenylphosphino)propane]Ni(II) chloride (500 mg, 0.9 mmol), and dry ether (600 mL). The mixture is cooled to 0° C. and a 2 M solution of n-hexylmagnesium bromide in ether (1 L) is added dropwise. The cooling bath is removed, and the solution is slowly heated to reflux and allowed to boil for 24 h. The mixture is cooled to 0° C. and diluted with water (50 mL) and then with a 2 M aqueous hydrochloric acid solution (500 mL). The aqueous layer is separated, extracted with ether (2×200 mL), and the combined organic layers are washed with water (100 mL) and dried over magnesium sulfate. The solvent is removed in vacuo and the product is purified by distillation.

reactant | 1,4-dichlorobenzene | 0.80 mol, 118 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | n-hexylmagnesium bromide | C(CCCCC)[Mg]Br
solvent | ether | 1 L | CCOCC | C4H10O
solvent | ether | 600 mL | CCOCC | C4H10O
product | 1,4-dihexylbenzene | C(CCCCC)C1=CC=C(C=C1)CCCCCC | C18H30
